US06194599B1
In one practical embodiment, 4-methylphenylchloride in tetrahydrofuran solvent is reacted with magnesium to form 4-methylphenylmagnesium chloride. An equivalent of zinc chloride is added to this mixture to form 4-methylphenylzinc chloride. This mixture is then combined with the 2-chlorobenzonitrile and the nickel catalyst components and reacted to form the 2-(4′-methylphenyl)benzonitrile.

reactant | 2-chlorobenzonitrile | ClC1=C(C#N)C=CC=C1 | C7H4ClN
catalyst | nickel | [Ni] | Ni
product | 2-(4′-methylphenyl)benzonitrile | CC1=CC=C(C=C1)C1=C(C#N)C=CC=C1 | C14H11N
